US06087380
b) 1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 74% of theory, C29H32N6O3 (512.6) ##EQU53##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C29H29N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 74% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C29H32N6O3.ClH/c1-4-38-27(36)16-17-35(23-8-6-5-7-9-23)29(37)21-12-15-25-24(18-21)32-26(34(25)3)19-33(2)22-13-10-20(11-14-22)28(30)31;/h5-15,18H,4,16-17,19H2,1-3H3,(H3,30,31);1H
